US07666879B2
1-(4-{7-[4-(4-Methyl-piperazine-1-carbonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-benzyl)-3-(3-trifluoromethyl-phenyl)-urea
Combine {4-[3-(4-aminomethyl-phenyl)-imidazo[1,2-a]pyridin-7-yl]-phenyl}-(4-methyl-piperazin-1-yl)-methanone, bis hydrochloride (0.30 g, 0.56 mmol), 3-trifluoromethylphenyl isocyanate (0.1 mL, 0.73 mmol) and triethylamine (0.4 mL, 2.9 mmol) in DMSO (10 mL). Filter the solution through 10 g SCX column eluting with methanol→2 N ammonia in methanol. Concentrate fractions containing product to give a residue. Purify by chromatography (5% methanol in dichloromethane→10% methanol in dichloromethane→10% 2 N ammonia methanol in dichloromethane) to afford product (0.18 g, 52%). MS(ES), m/z 613 (M+1).

reactant | {4-[3-(4-aminomethyl-phenyl)-imidazo[1,2-a]pyridin-7-yl]-phenyl}-(4-methyl-piperazin-1-yl)-methanone, bis hydrochloride | 0.56 mmol, 0.30 g | Cl.Cl.NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C
reactant | 3-trifluoromethylphenyl isocyanate | 0.73 mmol, 0.1 mL | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
reactant | triethylamine | 2.9 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 1-(4-{7-[4-(4-Methyl-piperazine-1-carbonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-benzyl)-3-(3-trifluoromethyl-phenyl)-urea | 0.18 g, 52% | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(CNC(=O)NC1=CC(=CC=C1)C(F)(F)F)C=C2 | C34H31F3N6O2
